US08314240B2
11.0 g of methyl 2-fluoro-4-{[(6-nitro-2,3-dihydro-1H-inden-5-yl)oxy]methyl}benzoate was dissolved in 120 mL of acetic acid and 12.0 mL of water, and 8.89 g of reduced iron was added thereto at 60° C., followed by stirring at 60° C. for 4.5 hours. The reaction liquid was cooled to room temperature, and then filtered through Celite, and the filtrate was concentrated under reduced pressure. The obtained residue was suspended in water and ethyl acetate, neutralized by the addition of sodium hydrogen carbonate, and then filtered through Celite. After the filtrate was extracted with ethyl acetate, the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (toluene:ethyl acetate=95:5 to 90:10) to obtain 6.06 g of methyl 4-{[(6-amino-2,3-dihydro-1H-inden-5-yl)oxy]methyl}-2-fluorobenzoate.

reactant | methyl 2-fluoro-4-{[(6-nitro-2,3-dihydro-1H-inden-5-yl)oxy]methyl}benzoate | 11.0 g | FC1=C(C(=O)OC)C=CC(=C1)COC=1C=C2CCCC2=CC1[N+](=O)[O-] | C18H16FNO5
solvent | acetic acid | 120 mL | C(C)(=O)O | C2H4O2
solvent | water | 12.0 mL | O | H2O
product | methyl 4-{[(6-amino-2,3-dihydro-1H-inden-5-yl)oxy]methyl}-2-fluorobenzoate | 6.06 g | NC1=C(C=C2CCCC2=C1)OCC1=CC(=C(C(=O)OC)C=C1)F | C18H18FNO3
